US08426450B1
To the solution of 6-chloro-4-iodo-N-methylpyridin-3-amine (40.3 g, 0.15 mol) and 2-methylbenzene boric acid (24.5 g, 0.18 mol) in 600 mL of anhydrous toluene was added 400 mL of 2 N aq. Na2CO3 solution, Pd(OAc)2 (3.36 g, 15 mmol) and PPh3 (7.87 g, 0.03 mmol). The solution was stirred at 100° C. for 2 hrs. Cooled to room temperature, and diluted with water. EtOAc was added to extract twice. The combined organic phases were washed with water and brine consecutively, dried over Na2SO4, concentrated and purified by flash chromatography to afford 19 g 6-chloro-N-methyl-4-(o-tolyl)pyridin-3-amine as a white solid (Yield: 54.6%).

reactant | 6-chloro-4-iodo-N-methylpyridin-3-amine | 0.15 mol, 40.3 g | ClC1=CC(=C(C=N1)NC)I | C6H6ClIN2
reactant | Na2CO3 | 2 N, 400 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 0.03 mmol, 7.87 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 15 mmol, 3.36 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6-chloro-N-methyl-4-(o-tolyl)pyridin-3-amine | 19 g, Yield: 54.6% | ClC1=CC(=C(C=N1)NC)C1=C(C=CC=C1)C | C13H13ClN2
